US05183820
4-[(2,6-Dibromophenyl)amino]-5,6-dihydro-2(1H)-pyridinone
A mixture of 2,6-dibromoaniline (4.4 g) and 2,4-dioxopiperidine (2.0 g) was heated at 120° for 2.5 h. The mixture was then cooled (0°) and triturated with ether 9100 ml) to give a solid which was purified by FCC eluting with System A (100:8:1) to give the title compound (1.8 g), m.p. 240°-243°.

reactant | 2,6-dibromoaniline | 4.4 g | BrC1=C(N)C(=CC=C1)Br | C6H5Br2N
reactant | 2,4-dioxopiperidine | 2.0 g | O=C1NCCC(C1)=O | C5H7NO2
product | 4-[(2,6-Dibromophenyl)amino]-5,6-dihydro-2(1H)-pyridinone | 1.8 g | BrC1=C(C(=CC=C1)Br)NC1=CC(NCC1)=O | C11H10Br2N2O
